US08455477B2
Phenylboronic acid (38.8 mg, 0.318 mmol), tricyclohexylphosphine (22.3 mg, 0.080 mmol), potassium phosphate tribasic (0.24 mL, 1.11 mmol) and tris(dibenzylideneacetone)dipalladium (0) (29.1 mg, 0.032 mmol) were combined into vial fitted with a Teflon septum. The vial was flushed with argon and a solution of 2-(benzyloxy)-6-chloro-4-iodopyridine (110 mg, 0.318 mmol) in DMF (3.2 mL) was added. The reaction was sparged with argon for 10 mins, then heated to 90° C. and stirred for two and a half hours. The reaction mixture was cooled down to room temperature, diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted two times with ethyl acetate. The combined organic layers were dried sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/ioshexane gradient) to give the 2-(benzyloxy)-6-chloro-4-phenylpyridine. LRMS (ESI) calculated for C18H15ClNO [M+H]+, 296.1; found 296.0.

reactant | Phenylboronic acid | 0.318 mmol, 38.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tricyclohexylphosphine | 0.080 mmol, 22.3 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate tribasic | 1.11 mmol, 0.24 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-(benzyloxy)-6-chloro-4-iodopyridine | 0.318 mmol, 110 mg | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)I)Cl | C12H9ClINO
solvent | DMF | 3.2 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.032 mmol, 29.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(benzyloxy)-6-chloro-4-phenylpyridine | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C1=CC=CC=C1)Cl | C18H14ClNO
